US08404869B2
2-Allyloxy-1,4-benzoquinone (6.56 g, 40 mM) and p-tert-Butylstyrene (70 g, 0.40 M) were dissolved in 80 ml of isopropanol to give 1.90 g (5.9 mM) of 2-Allyl-3-hydroxy-6-tert-butyl-1,4-phenanthrenequinone in the same manner as in Example 7.

reactant | 2-Allyloxy-1,4-benzoquinone | 40 mM, 6.56 g | C(C=C)OC=1C(C=CC(C1)=O)=O | C9H8O3
reactant | p-tert-Butylstyrene | 0.40 M, 70 g | C(C)(C)(C)C1=CC=C(C=C)C=C1 | C12H16
reactant | isopropanol | 80 ml | C(C)(C)O | C3H8O
product | 2-Allyl-3-hydroxy-6-tert-butyl-1,4-phenanthrenequinone | 5.9 mM, 1.90 g | C(C=C)C=1C(C=2C=CC3=CC=C(C=C3C2C(C1O)=O)C(C)(C)C)=O | C21H20O3
